* DFE Testbench - 1 tap with ISI channel and attenuated feedback
.include /home/kandl/projects/cml_latch_subckt.spice

* LOAD RESISTORS
Xload1 A vdd GND sky130_fd_pr__res_high_po W=1.41u L=4.4u mult=1 m=1
Xload2 B vdd GND sky130_fd_pr__res_high_po W=1.41u L=4.4u mult=1 m=1

* ISI CHANNEL
Rch_p inp ch_p 500
Cch_p ch_p GND 50f
Rch_n inn ch_n 500
Cch_n ch_n GND 50f

* SUMMER PAIR
XM1 A ch_p iss1_node GND sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=5 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 B ch_n iss1_node GND sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=5 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1

* FEEDBACK ATTENUATOR
* Latch swings ~2V, we divide by 10
* so feedback is ~0.2V which is comparable to input
Rfb_p1 fb_p fb_pa 9k
Rfb_p2 fb_pa GND 1k
Rfb_n1 fb_n fb_na 9k
Rfb_n2 fb_na GND 1k

* FEEDBACK PAIR
XM3 A fb_pa iss2_node GND sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=5 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 B fb_na iss2_node GND sky130_fd_pr__nfet_01v8 L=0.15 W=5 nf=5 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1

* TAIL CURRENTS
ISS1 iss1_node GND 300u
ISS2 iss2_node GND 150u

* LATCHES
Xlatch1 A B outp_l1 outn_l1 ck ckb vdd cml_latch
Xlatch2 outp_l1 outn_l1 fb_p fb_n ckb ck vdd cml_latch

* POWER SUPPLY
Vvdd vdd GND 1.8

* CLOCK - 5GHz
Vck  ck  GND pulse(0.6 1.2 0 10p 10p 90p 200p)
Vckb ckb GND pulse(1.2 0.6 0 10p 10p 90p 200p)

* INPUT DATA - PRBS pattern at 5Gbps
Vinp inp GND pwl(
+ 0p    1.3
+ 10p   1.5
+ 200p  1.5
+ 210p  1.3
+ 400p  1.3
+ 410p  1.5
+ 600p  1.5
+ 610p  1.5
+ 800p  1.5
+ 810p  1.3
+ 1000p 1.3
+ 1010p 1.5
+ 1200p 1.5
+ 1210p 1.3
+ 1400p 1.3
+ 1410p 1.3
+ 1600p 1.3
+ 1610p 1.5
+ 1800p 1.5
+ 1810p 1.3
+ 2000p 1.3)

Vinn inn GND pwl(
+ 0p    1.5
+ 10p   1.3
+ 200p  1.3
+ 210p  1.5
+ 400p  1.5
+ 410p  1.3
+ 600p  1.3
+ 610p  1.3
+ 800p  1.3
+ 810p  1.5
+ 1000p 1.5
+ 1010p 1.3
+ 1200p 1.3
+ 1210p 1.5
+ 1400p 1.5
+ 1410p 1.5
+ 1600p 1.5
+ 1610p 1.3
+ 1800p 1.3
+ 1810p 1.5
+ 2000p 1.5)

**** begin user architecture code
.lib /home/kandl/pdks/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.tran 0.2p 2n 0 0.2p
.ic v(A)=1.4 v(B)=1.4 v(outp_l1)=1.4 v(outn_l1)=1.4 v(fb_p)=1.4 v(fb_n)=1.4 v(fb_pa)=1.4 v(fb_na)=1.4
.save all
**** end user architecture code
.GLOBAL GND
.end
